US06734158B2
Synthesis of 6-methyl-7-oxa-1-thia-4-azaspiro[4.4]Nonane
To 15.4 g of 2-aminoethanethiol-HCl (0.13 mole) dissolved into 50 ml of water were added slowly 20 g of 2-methyl-3-tetrahydrofuranone (0.2 mole) (solution pH=2.7). The pH was kept to neutrality by adding 10% aqueous NaOH. After 1 hour, extraction of the water solution with Et2O, drying of the organic phase with MgSO4 and distillation of the crude product (Bp 1.7 mbar, 93°-96° C.) gave 18 g of the desired product (yield=90%). The product was obtained as a mixture of two diastereoisomers (isomers a and b).

reactant | 2-aminoethanethiol-HCl | 0.13 mole, 15.4 g | Cl.NCCS
reactant | 2-methyl-3-tetrahydrofuranone | 0.2 mole, 20 g, pH=2.7 | CC1OCCC1=O | C5H8O2
reactant | NaOH | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 6-methyl-7-oxa-1-thia-4-azaspiro[4.4]Nonane | 18 g, yield=90% | CC1C2(NCCS2)CCO1 | C7H13NOS
